US06831080B2
Preparation of (S)-N-[1-(4-Fluoro-3-morpholin-4-yl-phenyl)-ethyl]-3-(4-fluoro-phenyl)-acrylamide
A mixture of 4-fluorocinnamic acid (3.16 g, 19.6 mmol), 1-(4-Fluoro-3-morpholin-4-yl-phenyl)-ethylamine (4.39 g, 19.1 mmol), EDC.HCl (7.53 g, 39.2 mmol), DMAP (2.39 g, 19.6 mmol) and Et3N (8.23 ml, 58.8 mmol) in CH2Cl2 (60 ml) was stirred at room temperature for 16 hours. Purification by flesh chromatography over silica gel (elution with 50% ethyl acetate in hexane) gave 6.9 g of the title compound. The enantiomer was separated by Chiralpak AD column (50×500 mm, 20um) eluted with 45% EtOH in hexane, RT=36.1 min.

reactant | 4-fluorocinnamic acid | 19.6 mmol, 3.16 g | FC1=CC=C(C=CC(=O)O)C=C1 | C9H7FO2
reactant | 1-(4-Fluoro-3-morpholin-4-yl-phenyl)-ethylamine | 19.1 mmol, 4.39 g | FC1=C(C=C(C=C1)C(C)N)N1CCOCC1 | C12H17FN2O
reactant | EDC.HCl | 39.2 mmol, 7.53 g | CCN=C=NCCCN(C)C.Cl
reactant | Et3N | 58.8 mmol, 8.23 ml | CCN(CC)CC | C6H15N
catalyst | DMAP | 19.6 mmol, 2.39 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | (S)-N-[1-(4-Fluoro-3-morpholin-4-yl-phenyl)-ethyl]-3-(4-fluoro-phenyl)-acrylamide | 6.9 g | FC1=C(C=C(C=C1)[C@H](C)NC(C=CC1=CC=C(C=C1)F)=O)N1CCOCC1 | C21H22F2N2O2
